US07989438B2
Step 16: (7R)-14-cyclohexyl-7-{methyl[2-(methylamino)ethyl]amino}-N-{[methyl(2-oxoethyl)amino]sulfonyl}-3-(pyridin-2-ylmethoxy)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxamide
tert-butyl {2-[[(7R)-14-cyclohexyl-11-[({[(2,2-dimethoxyethyl)(methyl)amino]-sulfonyl}amino)carbonyl]-3-(pyridin-2-ylmethoxy)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocin-7-yl](methyl)amino]ethyl}methylcarbamate was dissolved in DCM/H2O/TFA (8:1:3, 15 mM). The mixture was warmed to 40° C. After 30 min all volatiles were evaporated in vacuo and the residual material was coevaporated twice with toluene. The remaining yellow oil was used in the next reaction without further purification.

reactant | tert-butyl {2-[[(7R)-14-cyclohexyl-11-[({[(2,2-dimethoxyethyl)(methyl)amino]-sulfonyl}amino)carbonyl]-3-(pyridin-2-ylmethoxy)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocin-7-yl](methyl)amino]ethyl}methylcarbamate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C[C@H](COC3=C(C21)C=CC(=C3)OCC3=NC=CC=C3)N(CCN(C(OC(C)(C)C)=O)C)C)C(=O)NS(=O)(=O)N(C)CC(OC)OC | C44H60N6O9S
solvent | DCM H2O TFA | 15 mM | C(Cl)Cl.O.C(=O)(C(F)(F)F)O
product | (7R)-14-cyclohexyl-7-{methyl[2-(methylamino)ethyl]amino}-N-{[methyl(2-oxoethyl)amino]sulfonyl}-3-(pyridin-2-ylmethoxy)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxamide | C1(CCCCC1)C=1C=2C=CC(=CC2N2C[C@H](COC3=C(C21)C=CC(=C3)OCC3=NC=CC=C3)N(CCNC)C)C(=O)NS(=O)(=O)N(CC=O)C | C37H46N6O6S
